US07157488B2
N-(2-(6-Chloro-1H-indol-3-yl)ethyl)-(3-(2,2-difluoro ethoxy)benzyl)amine
Combine 2-(6-chloro-1H-indol-3-yl)ethylamine hydrochloride (1.0 g, 4.3 mmol) and ethyldiisopropylamine (900 μL, 5.2 mmol) in ethanol (150 mL) and stir at room temperature and treat with 3-(2,2-difluoroethoxy)benzaldehyde (856 mg, 4.6 mmol) and anhydrous sodium sulfate (12 g) and heat at 78° C. overnight. Cool to room temperature and filter. Treat the resulting filtrate with sodium borohydride (488 mg, 12.9 mmol) and stir the milky-white mixture at room temperature overnight. Remove in vacuo the solvent, and purification of the crude on silica gel eluting with 10% methanol in dichloromethane gives the free base of the title compound as a light yellow oil. Dissolve a portion of the oil (651 mg, 1.78 mmol) in methanol (15 mL) and treat with a homogenous solution of ammonium chloride (95 mg, 1.78 mmol) in methanol (3 mL). Sonicate the resulting solution for 10 minutes before removal of the solvent in vacuo to provide an off-white solid. Triturate with diethyl ether containing a few drops of acetonitrile. Filtration and drying of the precipitate afforded the title hydrochloride as a white solid: mp 131.6–133° C.; 1H NMR (400 MHz, dmso-d6): 11.15 (br s, 1H), 9.50 (br s, 2H), 7.57 (d, 1H, J=8.8 Hz), 7.39 (d, 1H, J=2.0 Hz), 7.36 (t, 1H, J=8.2 Hz), 7.32 (br s, 1H), 7.26 (d, 1H, J=2.0 Hz), 7.17 (d, 1H, J=7.6 Hz), 7.04 (dd, 1H, J=7.8, 2.2 Hz), 7.01 (dd, 1H, J=8.4, 2.0 Hz), 6.41 (tt, 1H, J=54.4, 3.4 Hz), 4.32 (td, 2H, J=14.8, 3.6 Hz), 4.14 (br s, 2H), 3.11 (br s, 4H); MS (ES+): m/e 365.3 (M+1); CHN (for C19H19F2ClN2O.HCl.0.3H2O) calcd: C 56.11; H 5.11; N 6.89; found: C 56.03; H 4.95; N 7.18.

reactant | 2-(6-chloro-1H-indol-3-yl)ethylamine hydrochloride | 4.3 mmol, 1.0 g | Cl.ClC1=CC=C2C(=CNC2=C1)CCN
reactant | ethyldiisopropylamine | 5.2 mmol, 900 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-(2,2-difluoroethoxy)benzaldehyde | 4.6 mmol, 856 mg | FC(COC=1C=C(C=O)C=CC1)F | C9H8F2O2
reactant | sodium sulfate | 12 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium borohydride | 12.9 mmol, 488 mg | [BH4-].[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | N-(2-(6-Chloro-1H-indol-3-yl)ethyl)-(3-(2,2-difluoro ethoxy)benzyl)amine | ClC1=CC=C2C(=CNC2=C1)CCNCC1=CC(=CC=C1)OCC(F)F | C19H19ClF2N2O
